US04405789
The operation is as in Example 1, but starting from 13.4 g of 4-(3-indolyl-methyl)-piperidine and 0.54 g of triethylbenzylammonium chloride in 130 ml of chloroform and 19.5 g of sodium hydroxide in solution in 39 ml of water. 4.2 g of 3-chloro-4-[(4-piperidyl)-methyl]-quinoline are finally obtained in the form of the dihydrochloride melting above 260° C.

reactant | 4-(3-indolyl-methyl)-piperidine | 13.4 g | N1C=C(C2=CC=CC=C12)CC1CCNCC1 | C14H18N2
reactant | sodium hydroxide | 19.5 g | [OH-].[Na+]
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
catalyst | triethylbenzylammonium chloride | 0.54 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | chloroform | 130 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 39 ml | O | H2O
product | 3-chloro-4-[(4-piperidyl)-methyl]-quinoline | 4.2 g | ClC=1C=NC2=CC=CC=C2C1CC1CCNCC1 | C15H17ClN2
